US07323475B2
b) (5-Amino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid ethyl ester
10% Palladium/C (50% wet) solid (2.0 g) was added to a solution mixture of (5-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid ethyl ester (10.0 g) in glacial acetic acid (150 ml). Stirred vigorously under H2 (balloon pressure) at room temperature overnight (18 h). Catalyst was filtered off through a pad of celite and rinsed with methylene chloride. Filtrate was concentrated to give the title compound (7.0 g). 1H NMR (200 MHz, CDCl3) δ 7.59 (d, J=8.2 Hz, 1H), 7.02 (d, J=2.0 Hz, 1H), 6.81 (dd, J=8.2, 2.0 Hz, 1H), 4.38 (br S, 2H), 4.36 (s, 2H), 4.20 (q, J=7.0 Hz, 2H), 1.27 (t, J=7.0 Hz, 3H).

reactant | (5-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid ethyl ester | 10.0 g | C(C)OC(CN1C(C2=CC=C(C=C2C1=O)[N+](=O)[O-])=O)=O | C12H10N2O6
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | Palladium | [Pd] | Pd
product | (5-Amino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid ethyl ester | 7.0 g | C(C)OC(CN1C(C2=CC=C(C=C2C1=O)N)=O)=O | C12H12N2O4
